CIRCUIT

.param pi = 3.14159265359
.param n = 22.9820
vS 2 1 0 sin(0 'sqrt(2)*230/n' 50)

D1 2 3 Default
D2 0 1 Default
D3 1 3 Default
D4 0 2 Default
R 3 0 30k
C 3 0 10u


.model Default D
.op
.end

.control

tran 1e-5 40e-3

plot v(2,1) v(3)

plot 'v(3)-12'
print mean(v(3))
echo fodase
*print max(v(3))
*print min(v(3))
*print 'max(v(3))-min(v(3))'
.endc
.end